US04820817
Benzyl 6-(1-hydroxyethyl)-3-isopropylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (25 mg) is dissolved in dioxane (2 ml) and the solution is treated with water (1 ml) containing sodium bicarbonate (6 mg) and 10% palladium on powdered charcoal (25 mg). The resulting mixture is hydrogenated at 40 psi for 1 hr. The catalyst is filtered off and washed with water (3 ml). The combined filtrate is extracted with ethyl acetate (3×2 ml), concentrated in vacuo, and lyophilized to afford sodium 6-(1-hydroxyethyl)-3-isopropylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | Benzyl 6-(1-hydroxyethyl)-3-isopropylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 25 mg | OC(C)C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)SC(C)C | C19H23NO4S
reactant | water | 1 ml | O | H2O
reactant | sodium bicarbonate | 6 mg | C([O-])(O)=O.[Na+]
reactant | charcoal | 25 mg | C | CH4
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
product | sodium 6-(1-hydroxyethyl)-3-isopropylthio-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | OC(C)C1C2CC(=C(N2C1=O)C(=O)[O-])SC(C)C.[Na+] | InChI=1S/C12H17NO4S.Na/c1-5(2)18-8-4-7-9(6(3)14)11(15)13(7)10(8)12(16)17;/h5-7,9,14H,4H2,1-3H3,(H,16,17);/q;+1/p-1
